US04629797
Ethyl 2-(4-chloro-3-oxobutanamido)acetate
5.08 ml diketene are dissolved in 40 ml CH2Cl2. The solution is cooled to -30° C. and chlorine is passed through it for 1 h. The solution is then added rapidly dropwise to a solution of glycine ethyl ester prepared by suspending 9.30 g glycine ethyl ester hydrochloride in 160 ml methylene chloride containing 18.6 ml triethylamine, the mixture is stirred for 30 min and cooled to -30° C. Stirring is continued for 30 min, the solvent is evaporated in vacuo, and the residue taken up in ethyl acetate. The salts are filtered off, the solvent is evaporated and the residue chromatographed on silica, eluting with ethyl acetate. The compound is obtained as a white powder, m.p. 96°-7° C.

reactant | diketene | 5.08 ml | C=C1CC(=O)O1 | C4H4O2
reactant | chlorine | ClCl | Cl2
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | glycine ethyl ester hydrochloride | 9.30 g | Cl.C(C)OC(CN)=O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-chloro-3-oxobutanamido)acetate | ClCC(CC(=O)NCC(=O)OCC)=O | C8H12ClNO4
